US06348474B1
2-Amino-6-bromo-3-nitropyridine
A 30% solution of hydrogen bromide in acetic acid (10 ml) was added to 2-amino-6-chloro-3-nitropyridine (1.0 g) at room temperature and the mixture was heated at 100° C. After 24 hr, a 30% solution of hydrogen bromide in acetic acid (5 ml) was added. After 48 hr, the reaction mixture was cooled and concentrated. The residue was neutralized with 28% aqueous ammonia and extracted three times with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was crystallized from isopropyl ether to give the objective compound (1.14 g) as yellow crystals.

reactant | hydrogen bromide | Br | BrH
reactant | 2-amino-6-chloro-3-nitropyridine | 1.0 g | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-6-bromo-3-nitropyridine | 1.14 g | NC1=NC(=CC=C1[N+](=O)[O-])Br | C5H4BrN3O2
